US04927838
As in Example 152, sodium bis(2-methoxyethoxy)aluminum hydride in toluene (3.4M; 33.6 mL) and toluene (30 mL) pretreated with N-methypiperazine (13.5 mL) in toluene (20 mL) was reacted with 6-methoxy-3-pentyl-2-benzofurancarboxylic acid ethyl ester (6 g) in toluene (90 mL) for 30 minutes at -45° C. The previously described work up yielded 4.82 g of 6-methoxy-3-pentyl-2-benzofurancarboxaldehyde as an oil.

reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | N-methypiperazine | 13.5 mL | CN1CCNCC1 | C5H12N2
reactant | 6-methoxy-3-pentyl-2-benzofurancarboxylic acid ethyl ester | 6 g | C(C)OC(=O)C=1OC2=C(C1CCCCC)C=CC(=C2)OC | C17H22O4
solvent | toluene | 3.4M, 33.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 6-methoxy-3-pentyl-2-benzofurancarboxaldehyde | 4.82 g | COC1=CC2=C(C(=C(O2)C=O)CCCCC)C=C1 | C15H18O3
